US08895582B2
To a solution of (S)-methyl 4-(3-(2,3-difluorobenzyl)-1-methylureido)-5-(isoquinolin-3-ylcarbamoyloxy)pentanoate (1.0 g, 2.0 mmol) in THF (10 mL) was added LAH (2.0 M in THF, 1.5 mL, 3.0 mmol) at 0° C. and stirred at 0° C. for 20 min. The mixture was quenched with H2O (0.12 mL), NaOH (3 N, 0.12 mL), and H2O (0.36 mL) and the resulting suspension was stirred at RT for 30 min and filtered. The filtrate was concentrated and the residue was purified on silica gel column using a mixture of EtOAc and hexanes to give (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-5-hydroxypentyl isoquinolin-3-ylcarbamate (0.52 g, 55%). LRMS (M+H+) m/z 473.2.

reactant | (S)-methyl 4-(3-(2,3-difluorobenzyl)-1-methylureido)-5-(isoquinolin-3-ylcarbamoyloxy)pentanoate | 2.0 mmol, 1.0 g | FC1=C(CNC(N(C)[C@@H](CCC(=O)OC)COC(NC=2N=CC3=CC=CC=C3C2)=O)=O)C=CC=C1F | C25H26F2N4O5
reactant | LAH | 3.0 mmol, 2.0 M, 1.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-2-(3-(2,3-difluorobenzyl)-1-methylureido)-5-hydroxypentyl isoquinolin-3-ylcarbamate | 0.52 g, 55% | C1=NC(=CC2=CC=CC=C12)NC(OC[C@H](CCCO)N(C(=O)NCC1=C(C(=CC=C1)F)F)C)=O | C24H26F2N4O4
